US06638929B2
8-[(4-Chloro-5-methoxy-2-methylphenyl)amino]thiazolo[4,5-g]quinoline-7-carbonitrile
To a mixture of 100 mg (0.44 mmol) of 8-hydroxy[1,3]thiazolo[4,5-g]quinoline-7-carbonitrile in 5 mL of phosphoryl chloride is added five drops of N,N-dimethylformamide. The mixture is heated at reflux temperature for 30 minutes and then concentrated in vacuo. To the residue at 0° C. is added 50 mL of water. The solids are collected, washed with water, and dried in vacuo. To a mixture of this compound in 2 mL of 2-ethoxyethanol are added 76 mg (0.44 mmol) of 4-chloro-5-methoxy-2-methylaniline and 20 mg of pyridine hydrochloride. The mixture is refluxed for one hour and concentrated. The residue is chromatographed by silica gel chromatography, eluting with 9:1 methylene chloride/methanol to yield 26 mg (16%) of product as a dark oil.

reactant | 8-hydroxy[1,3]thiazolo[4,5-g]quinoline-7-carbonitrile | 0.44 mmol, 100 mg | OC1=C(C=NC=2C=C3C(=CC12)N=CS3)C#N | C11H5N3OS
reactant | 4-chloro-5-methoxy-2-methylaniline | 0.44 mmol, 76 mg | ClC1=CC(=C(N)C=C1OC)C | C8H10ClNO
reactant | pyridine hydrochloride | 20 mg | Cl.N1=CC=CC=C1
solvent | phosphoryl chloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | N,N-dimethylformamide | five drops | CN(C=O)C | C3H7NO
product | 8-[(4-Chloro-5-methoxy-2-methylphenyl)amino]thiazolo[4,5-g]quinoline-7-carbonitrile | 26 mg, 16% | ClC1=CC(=C(C=C1OC)NC1=C(C=NC=2C=C3C(=CC12)N=CS3)C#N)C | C19H13ClN4OS
